US03968137
A sealed glass tube containing 36.2 g of bis(trifluoromethyl)diazomethane and 10.2 g of cyanoacetylene was heated at 50°C for 24 hours. The product was distilled to give 40.1 g of 3,3-bis(trifluoromethyl)-5-cyano-3H-pyrazole, bp 38°C/12 mm. The ultraviolet, infrared, and mass spectra as well as the proton and fluorine nuclear magnetic resonance spectra were consistent with the proposed structure.

reactant | bis(trifluoromethyl)diazomethane | 36.2 g | FC(F)(F)C(=[N+]=[N-])C(F)(F)F | C3F6N2
reactant | cyanoacetylene | 10.2 g | C(#N)C#C | C3HN
product | 3,3-bis(trifluoromethyl)-5-cyano-3H-pyrazole | 40.1 g | FC(C1(N=NC(=C1)C#N)C(F)(F)F)(F)F | C6HF6N3
